### PR TITLE
[Merged by Bors] - feat: port Mathlib.Logic.Nontrivial

### PR DESCRIPTION
**Pull request by pechersky**
The simp tag is registered in a separate file

### CODE REVIEW

**Comment by semorrison** [comment]
The `nontriviality` tactic used to live in this file, which was a mistake that I've remedied in [mathlib#17467](https://github.com/leanprover-community/mathlib/pull/17467).

File: Mathlib/Logic/Nontrivial.lean [hunk 1]
```diff
@@ -11,11 +15,176 @@ A type is *nontrivial* if it contains at least two elements. This is useful in p
...
+theorem exists_pair_ne (α : Type _) [Nontrivial α] : ∃ x y : α, x ≠ y :=
+  Nontrivial.exists_pair_ne
+
+-- See Note [decidable namespace]
+protected theorem Decidable.exists_ne [Nontrivial α] [DecidableEq α] (x : α) : ∃ y, y ≠ x := by
+  rcases exists_pair_ne α with ⟨y, y', h⟩
+  by_cases hx:x = y
+  · rw [← hx] at h
+    exact ⟨y', h.symm⟩
+
```
Comment (semorrison) [inline Mathlib/Logic/Nontrivial.lean:44]:
```suggestion
```

**Comment by semorrison** [comment]
bors merge

**Comment by semorrison** [comment]
bors merge
